US08426411B2
A round bottom flask was charged with ethyl 2-ethyl-4-oxocyclopentanecarboxylate (95.9 g, 521 mmol, Preparation #W.1) and DCE (1.8 L). The solution was cooled to about 0° C. and AcOH (45 mL, 780 mmol) and dibenzylamine (120 mL, 625 mmol) were added dropwise, resulting in formation of a thick suspension. The reaction mixture was warmed to about 10° C. and additional DCE (500 mL) was added. NaBH(OAc)3 (166 g, 781 mmol) was added portionwise and the reaction mixture was stirred at ambient temperature for about 20 h. The reaction mixture was slowly poured into stirred saturated aqueous NaHCO3 (1.5 L), followed by the portionwise addition of solid NaHCO3 (175 g). The mixture was stirred for about 2 h and the organic layer was separated, dried over anhydrous Na2SO4, and concd to dryness under reduced pressure. The crude yellow oil was purified by silica gel chromatography eluting with 0-20% EtOAc in heptane to yield ethyl 4-(dibenzylamino)-2-ethylcyclopentanecarboxylate (136.6 g, 72%) as a white solid: LC/MS (Table 1, Method a) Rt=3.26 min; MS m/z: 366 (M+H)+

reactant | ethyl 2-ethyl-4-oxocyclopentanecarboxylate | 521 mmol, 95.9 g | C(C)C1C(CC(C1)=O)C(=O)OCC | C10H16O3
reactant | AcOH | 780 mmol, 45 mL | CC(=O)O | C2H4O2
reactant | dibenzylamine | 625 mmol, 120 mL | C(C1=CC=CC=C1)NCC1=CC=CC=C1 | C14H15N
reactant | NaBH(OAc)3 | 781 mmol, 166 g | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | NaHCO3 | 1.5 L | C(=O)(O)[O-].[Na+]
reactant | NaHCO3 | 175 g | C(=O)(O)[O-].[Na+]
solvent | DCE | 500 mL | ClCCCl | C2H4Cl2
solvent | DCE | 1.8 L | ClCCCl | C2H4Cl2
product | ethyl 4-(dibenzylamino)-2-ethylcyclopentanecarboxylate | 136.6 g, 72% | C(C1=CC=CC=C1)N(C1CC(C(C1)C(=O)OCC)CC)CC1=CC=CC=C1 | C24H31NO2
